US04581377
Sodium hydroxide (0.2 gram) was dissolved in a mixture of 20 ml of methanol and 5 ml of water, then 1.47 grams of 4-(9-oxo-2-fluorenyl)-butan-2-ol acetate was added thereto, and the mixture was heated to reflux for two hours. After removal of methanol by evaporation therefrom, chloroform was added to the residue, the mixture was washed with water, and dried with magnesium sulfate. Chlorform was evaporated therefrom and the residue was allowed to stand to give crystals. They were recrystallized from isopropyl ether to give 1.2 grams of 4-(9-oxo-2-fluorenyl)-butan-2-ol, yellow crystals, m.p. 77°-78° C.

reactant | Sodium hydroxide | 0.2 gram | [OH-].[Na+]
reactant | 4-(9-oxo-2-fluorenyl)-butan-2-ol acetate | 1.47 grams | C(C)(=O)OC(C)CCC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C19H18O3
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-(9-oxo-2-fluorenyl)-butan-2-ol | 1.2 grams | O=C1C2=CC=CC=C2C=2C=CC(=CC12)CCC(C)O | C17H16O2
